US07645789B2
Ethyl 2-(1H-indol-2-yl)propanoate (0.91 g, 4.2 mmol) was dissolved in concentrated sulfuric acid (3.9 mL) and cooled to −10° C. (salt/ice-mixture). A solution of sodium nitrate (0.36 g, 4.2 mmol) in concentrated sulfuric acid (7.8 mL) was added dropwise over 35 min. Stirring was continued for another 30 min at −10° C. The mixture was poured into ice and the product was extracted with ethyl acetate. The combined organic phases were washed with a small amount of sat. aq. sodium bicarbonate. The product was purified by column chromatography on silica gel (5-30% EtOAc in hexane) to give ethyl 2-(5-nitro-1H-indol-2-yl)propanoate (0.34 g, 31%).

reactant | Ethyl 2-(1H-indol-2-yl)propanoate | 4.2 mmol, 0.91 g | N1C(=CC2=CC=CC=C12)C(C(=O)OCC)C | C13H15NO2
reactant | sodium nitrate | 4.2 mmol, 0.36 g | [N+](=O)([O-])[O-].[Na+]
solvent | sulfuric acid | 3.9 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 7.8 mL | S(O)(O)(=O)=O | H2O4S
product | ethyl 2-(5-nitro-1H-indol-2-yl)propanoate | 0.34 g, 31% | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(C(=O)OCC)C | C13H14N2O4
